US06391874B1
1-(N,N-Dimethylaminopropyl)-2-tri-n-butylstannylimidazole
1-(N,N-Dimethylaminopropyl)imidazole (2 g) in THF (20 ml) at −78° C. was treated with nBuLi (8.6 ml, 1.6M) under nitrogen. After 30 minutes at −78° C., tri-n-butylstannyl chloride was added and the mixture allowed to warm to 20° C. The mixture was concentrated in vacuo, taken up in n-hexane and filtered. The filtrate was concentrated in vacuo to give the title compound (4.33 g) as a yellow oil; δH CDCl3 7.28 (1H,s), 7.09 (1H,s), 3.97 (2H,t), 2.25 (2H,t), 2.20 (6H,s), 1.90 (2H,m) 1.55 (6H,m), 1.34 (12H,m), 0.92 (9H,m).

reactant | 1-(N,N-Dimethylaminopropyl)imidazole | 2 g | CN(C)CCCN1C=NC=C1 | C8H15N3
reactant | nBuLi | 1.6M, 8.6 ml | [Li]CCCC
reactant | tri-n-butylstannyl chloride | C(CCC)[Sn](CCCC)(CCCC)Cl
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 1-(N,N-Dimethylaminopropyl)-2-tri-n-butylstannylimidazole | 4.33 g | CN(C)CCCN1C(=NC=C1)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C8H14N3.3C4H9.Sn/c1-10(2)5-3-6-11-7-4-9-8-11;3*1-3-4-2;/h4,7H,3,5-6H2,1-2H3;3*1,3-4H2,2H3;
